US09301951B2
Intermediate 131e: (S)-3-((4-(diethylamino)-2-(4-((1,2,3,4-tetrahydronaphthalen-1-yl)carbamoyl)pyridin-2-yl)phenyl)carbamoyl)benzoic acid
To ((S)-tert-butyl 3-((4-(diethylamino)-2-(4-((1,2,3,4-tetrahydronaphthalen-1-yl)carbamoyl)pyridin-2-yl)phenyl)carbamoyl)benzoate (4.31 g) was added 4M HCl in dioxane (20 mL). The mixture was stirred at room temperature for 5 h, concentrated to give a yellow solid which was used without further purification.

reactant | (S)-tert-butyl 3-((4-(diethylamino)-2-(4-((1,2,3,4-tetrahydronaphthalen-1-yl)carbamoyl)pyridin-2-yl)phenyl)carbamoyl)benzoate | 4.31 g | C(C)N(C1=CC(=C(C=C1)NC(=O)C=1C=C(C(=O)OC(C)(C)C)C=CC1)C1=NC=CC(=C1)C(N[C@H]1CCCC2=CC=CC=C12)=O)CC | C38H42N4O4
reactant | HCl | 4M | Cl | ClH
solvent | dioxane | 20 mL | O1CCOCC1 | C4H8O2
product | (S)-3-((4-(diethylamino)-2-(4-((1,2,3,4-tetrahydronaphthalen-1-yl)carbamoyl)pyridin-2-yl)phenyl)carbamoyl)benzoic acid | C(C)N(C1=CC(=C(C=C1)NC(=O)C=1C=C(C(=O)O)C=CC1)C1=NC=CC(=C1)C(N[C@H]1CCCC2=CC=CC=C12)=O)CC | C34H34N4O4
